US04226872
To 15 g of 6-methyl-2-pyridylcarboxylic acid (122 mmol) in 200 ml benzene is added dropwise 19.1 g (150 mmol) oxalyl chloride (dissolved in 30 ml benzene) with ice bath cooling. The solution is allowed to come to RT and is stirred 1 hour, after which it is stripped, 100 ml of benzene is added, and it is stripped again. The residue is taken up in 200 ml benzene and 41 g of aluminumtrichloride (310 mmol) is added in portions over a 3 hour period with ice bath cooling. The solution is heated to 25° for 1 hour, then heated to reflux for 2 hours, and finally cooled and stirred overnight. The mixture is poured onto ice/conc. HCl, then washed with ether. Fifty Percent (50%) sodium hydroxide is added until the precipitate is dissolved. The solution is extracted with CHCl3, washed with water, dried and stripped, leaving 6-benzoyl-2-methylpyridine.

reactant | 6-methyl-2-pyridylcarboxylic acid | 122 mmol, 15 g | CC1=CC=CC(=N1)C(=O)O | C7H7NO2
reactant | oxalyl chloride | 150 mmol, 30 ml, 19.1 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 6-benzoyl-2-methylpyridine | C(C1=CC=CC=C1)(=O)C1=CC=CC(=N1)C | C13H11NO
